US08039450B2
To a suspension of 5-(4-nitro-phenoxy)-2-(4,4,5-trimethyl-[1,3,2]dioxaborolan-2-yl)-benzaldehyde (721 mg, 1.9 mmol, 1.0 eq.) in EtOH (15 mL) at 0° C. was added NaBH4 (73.8 mg, 1.9 mmol, 1.0 eq.) in small portions. The mixture was stirred at 0° C. for 20 minutes and allowed to warm to room temperature in another 1 h. After cooling to 0° C., the clear solution was carefully treated with H2O (1 mL), followed by slow addition of HCl (5 mL, 3N). The resulting yellow suspension was allowed to ward to room temperature gradually and stirred for 2 h. The mixture was then treated with sat. NaHCO3 drop wise until PH reaching 7. The precipitate was collected by filtration, washed with H2O to give 5-(4-nitro-phenoxy)-3H-benzo[c][1,2]oxaborol-1-ol as a white powder. LCMS (m/z) 294 (M+23); 1H NMR (DMSO-d6) δ: 7.26 (d, J=8.6 Hz, 1H), 6.93 (d, J=3.0 Hz, 1H), 6.56 (dd, J=8.5, 3.0 Hz, 1H), 4.37 (s, 2H). Amount obtained, 510 mg, 96.4% yield.

reactant | 5-(4-nitro-phenoxy)-2-(4,4,5-trimethyl-[1,3,2]dioxaborolan-2-yl)-benzaldehyde | 1.9 mmol, 721 mg, 1.0 eq. | [N+](=O)([O-])C1=CC=C(OC=2C=CC(=C(C=O)C2)B2OC(C(O2)(C)C)C)C=C1 | C18H18BNO6
reactant | NaBH4 | 1.9 mmol, 73.8 mg, 1.0 eq. | [BH4-].[Na+]
reactant | HCl | 3N, 5 mL | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | EtOH | 15 mL | CCO | C2H6O
solvent | H2O | 1 mL | O | H2O
product | 5-(4-nitro-phenoxy)-3H-benzo[c][1,2]oxaborol-1-ol | 96.4% yield | [N+](=O)([O-])C1=CC=C(OC2=CC3=C(B(OC3)O)C=C2)C=C1 | C13H10BNO5
